US07084170B2
1-Phenyl-5-(5-trifluoromethyl-thiophen-3-yloxy)-1H-tetrazole
A solution of 5-trifluoromethyl-thiophen-3-ol (2.0 g, 11.9 mmol) in dry acetone (480 mL) containing 5-chloro-1-phenyl-1H-tetrazole (2.1 g, 11.9 mmol) and K2CO3 (3.3 g, 23.8 mmol) is maintained at reflux with careful exclusion of moisture overnight. The acetone is removed under reduced pressure and the residue is partitioned between CH2Cl2 (500 mL) and H2O (50 mL). The organic extracts are washed with brine, then dried (Na2SO4), filtered and concentrated. The crude product is chromatographed on silica gel, eluting with EtOAc:Hex (1:80) to afford the title compound (2.5 g, 68%) as a white solid.

reactant | 5-trifluoromethyl-thiophen-3-ol | 11.9 mmol, 2.0 g | FC(C1=CC(=CS1)O)(F)F | C5H3F3OS
reactant | 5-chloro-1-phenyl-1H-tetrazole | 11.9 mmol, 2.1 g | ClC1=NN=NN1C1=CC=CC=C1 | C7H5ClN4
reactant | K2CO3 | 23.8 mmol, 3.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 480 mL | CC(=O)C | C3H6O
product | 1-Phenyl-5-(5-trifluoromethyl-thiophen-3-yloxy)-1H-tetrazole | 2.5 g, 68% | C1(=CC=CC=C1)N1N=NN=C1OC1=CSC(=C1)C(F)(F)F | C12H7F3N4OS
